US06677368B2
4-(3-Fluoro-phenyl)-3-[1-[4-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
4-(2-Pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (0.2 was condensed with 4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one (0.2 mmol) and piperidine (2 drops) in ethanol at rt for overnight. The solvent was removed and the residue was purified on a silica gel column to give 25 mg of the titled compound as a yellow solid.

reactant | 4-(2-Pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | N1(CCCC1)CCC1C=2C=C(NC2CCC1)C=O | C15H22N2O
reactant | 4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | 0.2 mmol | FC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C14H10FNO
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-Fluoro-phenyl)-3-[1-[4-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-indol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 25 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC=2CCCC(C2C1)CCN1CCCC1 | C29H30FN3O
